US04289772
Crude methyl 3-(1-acetyl-piperid-4-yl)propionate (13 g) in dry ether (80 ml) was added dropwise, at 0°-10°, to methyl magnesium iodide [prepared from Mg (8 g) and methyliodide (40 g)] in dry ether (150 ml). The mixture was then stirred at room temperature (20°) overnight, after which time the resulting complex was decomposed by the addition of saturated, aqueous ammonium chloride (50 ml). Dilute hydrochloric acid was added until all the solids dissolved (pH 7-8) and then the ether layer was separated. The aqueous layer was extracted with ether (200 ml) and chloroform (200 ml) and the combined organic extracts were washed with 2 N hydrochloric acid (100 ml) and then with brine (50 ml). After drying (Na2CO3), the organic solvents were removed in vacuo to give 3-(1-acetyl-piperid-4-yl)-1,1-dimethyl propanol as a crude oil.

reactant | methyl 3-(1-acetyl-piperid-4-yl)propionate | 13 g | C(C)(=O)N1CCC(CC1)CCC(=O)OC | C11H19NO3
reactant | methyl magnesium iodide | 8 g | C[Mg]I
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
product | 3-(1-acetyl-piperid-4-yl)-1,1-dimethyl propanol | C(C)(=O)N1CCC(CC1)CCC(O)(C)C | C12H23NO2
